US04927831
Step (l) Preparation of 2-[(4-Bromo-2-fluorophenyl)methyl]-1,2,3,4-tetrahydro-4-(menthoxycarbonyl)-1,3-dioxo-4-isoquinolineacetic Acid 1,1-Dimethylethyl Ester
To a mixture of 2-[(4-bromo-2-fluorophenyl)methyl]-1,2,3,4-tetrahydro-1,3-dioxo-4-isoquinoline carboxylic acid menthyl ester (7.62 g, 14.37 mmol), K2CO3 (3.96 g, 28.74 mmol) in DMF (100 mL) was added tert-butyl bromoacetate (4.64 mL, 28.74 mmol). The mixture was stirred at 85° C. for 2 hours, poured into H2O (1000 mL) and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography (hexane/EtOAc:4/1) gave a clear oil (6.9 g, diastereomeric mixture). The two diastereomers were separated by preparative HPLC on prep. Pac silica column, (μ poraSi/125 Å, 15-20 μsilica) by elution with hexane/CH2Cl2 to give the less polar A-diastereomer as a white solid (2.4 g) and the more polar diastereomer B as a clear oil (2.2 g). The diastereomeric purity was determined by analytical HPLC, on Dynamax silica 25 cmx4.1 mm and was found to be greater than 99% for both diastereomers.

reactant | 2-[(4-bromo-2-fluorophenyl)methyl]-1,2,3,4-tetrahydro-1,3-dioxo-4-isoquinoline carboxylic acid menthyl ester | 14.37 mmol, 7.62 g | C1(CC(C(CC1)C(C)C)OC(=O)C1C(N(C(C2=CC=CC=C12)=O)CC1=C(C=C(C=C1)Br)F)=O)C | C27H29BrFNO4
reactant | K2CO3 | 28.74 mmol, 3.96 g | C(=O)([O-])[O-].[K+].[K+]
reactant | tert-butyl bromoacetate | 28.74 mmol, 4.64 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | H2O | 1000 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-[(4-Bromo-2-fluorophenyl)methyl]-1,2,3,4-tetrahydro-4-(menthoxycarbonyl)-1,3-dioxo-4-isoquinolineacetic Acid 1,1-Dimethylethyl Ester | 2.4 g | CC(C)(C)OC(CC1(C(N(C(C2=CC=CC=C12)=O)CC1=C(C=C(C=C1)Br)F)=O)C(=O)OC1CC(CCC1C(C)C)C)=O | C33H39BrFNO6
